US05639732
Ethyl (ethyl)(phenyl)phosphinate:
A slurry of sodium hydride (0.13 g of a 60% suspension in mineral oil, 3.2 mmol) in anhydrous THF (10 ml) was treated dropwise with a solution of ethyl phenylphosphinate (0.50 g, 2.9 mmol) over one hour via a syring pump. The mixture was allowed to stir an additional 30 minutes before the addition of ethyl iodide (0.26 ml, 3.2 mmol). After 45 minutes the reaction was quenched with 10% aqueous ammonium chloride (5 ml) and poured into a separatory funnel containing ethyl acetate (50 ml). The organic phase was washed with water, saturated aqueous sodium bicarbonate and brine before being dried over magnesium sulfate, filtered and concentrated to afford 0.30 g (52%) of the title compound as a colorless mobile oil following flash chromatography on silica gel (50% ethyl acetate/hexane); MS: 199 m/z (M+H)+.

reactant | sodium hydride | [H-].[Na+]
reactant | ethyl phenylphosphinate | 2.9 mmol, 0.50 g | C1(=CC=CC=C1)P(OCC)=O | C8H11O2P
reactant | ethyl iodide | 3.2 mmol, 0.26 ml | C(C)I | C2H5I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Ethyl (ethyl)(phenyl)phosphinate | 0.30 g, 52% | C(C)P(OCC)(=O)C1=CC=CC=C1 | C10H15O2P
